US07435742B2
Intermediate I-6 —Preparation of (5-Bromothiophen-2-ylmethyl)-(2,4,5-trifluorophenyl)amine
To a solution of 2 g (13.6 mmol) of 2,4,5-trifluorophenylamine and 2.66 g (13.9 mmol) of 5-bromothiophene-2-carbaldehyde in 30 ml of EtOH, 9.4 g of molecular sieves (0.3 nm) were added and the mixture was refluxed for 20 hours. After this time the reaction mixture was cooled to room temperature, filtered and the solvent was evaporated in vacuo. The oil obtained was dissolved in 30 ml of MeOH and 0.51 g (13.6 mmol) of NaBH4 were added in small portions, maintaining the temperature of the reaction at room temperature. The mixture was stirred at this temperature for 20 more hours. After this time the solvent was evaporated in vacuo and the residue was treated with 100 ml of water and extracted twice with ether. The organic layers were combined, washed with brine, dried over anhydrous MgSO4, filtered and evaporated to dryness to give 3.2 g of an oil. This 3.2 g were combined with 3.5 g obtained in a subsequent preparation and the total product obtained (6.7 g) was purified by chromatography on silica gel using mixtures of hexane/AcOEt 5:1→1:1 as eluent Appropriate fractions were combined to give 0.95 g of the title product as an oil. (global yield 8.2%).

reactant | 2,4,5-trifluorophenylamine | 13.6 mmol, 2 g | FC1=C(C=C(C(=C1)F)F)N | C6H4F3N
reactant | 5-bromothiophene-2-carbaldehyde | 13.9 mmol, 2.66 g | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | NaBH4 | 13.6 mmol, 0.51 g | [BH4-].[Na+]
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | MeOH | 30 ml | CO | CH4O
product | (5-Bromothiophen-2-ylmethyl)-(2,4,5-trifluorophenyl)amine | 3.2 g, yield 8.2% | BrC1=CC=C(S1)CNC1=C(C=C(C(=C1)F)F)F | C11H7BrF3NS
